US07790751B2
3-(1-Naphthylsulfonyl)-5-(piperidin-3-yloxy)-1H-indazole
A mixture of 5-(1-benzylpiperidin-3-yloxy)-3-(1-naphthylsulfonyl)-1H-indazole (0.7 g, 1.4 mmoles), 10% Pd/C and concentrated HCl (1 mL) in THF and methanol was hydrogenated in a Parr hydrogenation bottle at 52 lb/in2 for 72 hours. TLC showed about 30% conversion into desired product. The reaction mixture was filtered through Celite, and the filtrate was concentrated. The concentrate, a mixture of starting material and product, was then separated by reverse phase chromatography on C18 column, using as eluent 10-100% H2O/AcCN, to afford the title compound as an off-white solid, 0.16 g, mp 178-180° C., identified by HNMR and mass spectral analyses, MS (ES) m/z 406.1.

reactant | 5-(1-benzylpiperidin-3-yloxy)-3-(1-naphthylsulfonyl)-1H-indazole | 1.4 mmoles, 0.7 g | C(C1=CC=CC=C1)N1CC(CCC1)OC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C29H27N3O3S
reactant | HCl | 1 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-(1-Naphthylsulfonyl)-5-(piperidin-3-yloxy)-1H-indazole | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CNCCC1 | C22H21N3O3S
